US05401722
A mixture of 1.19 g of phenyl isocyanate, 3.67 g of 2-[(2S,3S)-3-amino-4-cyclohexyl-2-hydroxybutyl ]-2-methyl- 1,3-dithiane 1,1,3,3-tetroxide, 1.01 g of triethylamine and 60 ml of dichloromethane is stirred at 20° for 5 h. The usual working up gives 2-[(2S,3S)-4-cyclohexyl-2-hydroxy-3-(N'-phenylureido)-butyl]-2-methyl-1,3-dithiane 1,1,3,3-tetroxide, m.p 238°-240°, FAB 487.

reactant | phenyl isocyanate | 1.19 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-[(2S,3S)-3-amino-4-cyclohexyl-2-hydroxybutyl ]-2-methyl- 1,3-dithiane 1,1,3,3-tetroxide | 3.67 g | N[C@H]([C@H](CC1(S(CCCS1(=O)=O)(=O)=O)C)O)CC1CCCCC1 | C15H29NO5S2
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-[(2S,3S)-4-cyclohexyl-2-hydroxy-3-(N'-phenylureido)-butyl]-2-methyl-1,3-dithiane 1,1,3,3-tetroxide | C1(CCCCC1)C[C@@H]([C@H](CC1(S(CCCS1(=O)=O)(=O)=O)C)O)NC(=O)NC1=CC=CC=C1 | C22H34N2O6S2
